US05344843
A mixture of alpha-oxo-4-[(3-phenyl-2-propynyl)oxy]benzeneacetic acid methyl ester (0.7 g) in methanol (10 mL) and 0.SN sodium hydroxide (8 mL) was treated as in Example 19. Extraction provided solids which were crystallized from diethyl ether-hexane to give 0.55 g of colorless alpha-oxo-4-[(3-phenyl-2-propynyl)oxy]benzeneacetic acid, mp 97°-99° C.

reactant | alpha-oxo-4-[(3-phenyl-2-propynyl)oxy]benzeneacetic acid methyl ester | 0.7 g | COC(C(C1=CC=C(C=C1)OCC#CC1=CC=CC=C1)=O)=O | C18H14O4
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium hydroxide | 8 mL | [OH-].[Na+]
product | alpha-oxo-4-[(3-phenyl-2-propynyl)oxy]benzeneacetic acid | 0.55 g | O=C(C(=O)O)C1=CC=C(C=C1)OCC#CC1=CC=CC=C1 | C17H12O4
